US09303020B2
Preparation of tert-butyl (2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxamido)ethyl)carbamate.
To a mixture of 2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxylic acid (1.3 g, 3.62 mmol), tert-butyl (2-aminoethyl)carbamate (0.696 g, 4.34 mmol) in DMF (50 mL) at room temperature was added N,N-diisopropylethylamine (DIPEA) (2.53 mL, 14.47 mmol). The mixture was cooled to 0° C., added with (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (BOP) (2.40 g, 5.43 mmol), and then stirred at room temperature (rt) overnight. The reaction mixture was diluted with water, stirred for 5 min. The solid was filtered and dried under suction to obtain the title compound as a yellow solid. Yield: 1.6 g, (88%). 1H NMR (400 MHz, DMSO-d6) δ ppm: 8.61 (t, J=5.65 Hz, 1H) 8.32 (s, 1H) 7.90-8.09 (m, 2H) 7.50 (s, 1H) 7.28-7.46 (m, 2H) 6.91 (t, J=5.65 Hz, 1H) 4.87 (dt, J=12.17, 5.96 Hz, 1H) 3.35-3.49 (m, 2H) 3.06-3.23 (m, 2H) 1.09-1.47 (m, 15H). LCMS: (ES+) m/z=502.34 (M+H)+; Column—ACQUITY UPLC BEH C8 (50×2.1 mm; 1.7 nm); M phase A: 5 mM Ammonium Acetate: MeCN (95:5); M phase B: 5 mM Ammonium Acetate:MeCN (5:95)

reactant | 2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxylic acid | 3.62 mmol, 1.3 g | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)O)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C18H14FNO6
reactant | tert-butyl (2-aminoethyl)carbamate | 4.34 mmol, 0.696 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | N,N-diisopropylethylamine | 14.47 mmol, 2.53 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 5.43 mmol, 2.40 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl (2-(2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxamido)ethyl)carbamate | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NCCNC(OC(C)(C)C)=O)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C25H28FN3O7
